US07605269B2
To a solution of triphenylphosphine (161 mg, 0.615 mmol) in dry THF is added DEAD (0.097 mL, 0.615 mmol). The solution is stirred at rt for 1 h before (2,2-dimethyl-[1,3]dioxan-5-yl)-methanol (90 mg, 0.615 mmol) and 2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenol (150 mg, 0.410 mmol) is added. Stirring is continued for 24 h. The reaction mixture is purified by prep. HPLC (Waters XTerra Prep MS C18 19×50 mm 5 μm, water (0.85% NEt2)/acetonitrile) to give 3-[4-(2,2-dimethyl-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole (135 mg) as colourless lyophilisate; LC-MS: tR=1.29 min, [M+1]+=495.30.

reactant | triphenylphosphine | 0.615 mmol, 161 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.615 mmol, 0.097 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (2,2-dimethyl-[1,3]dioxan-5-yl)-methanol | 0.615 mmol, 90 mg | CC1(OCC(CO1)CO)C | C7H14O3
reactant | 2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenol | 0.410 mmol, 150 mg | CC1=C(C(=CC(=C1)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)O | C21H22N2O2S
solvent | THF | C1CCOC1 | C4H8O
product | 3-[4-(2,2-dimethyl-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole | 135 mg | CC1(OCC(CO1)COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)C | C28H34N2O4S
